data/rdb19/train.csv
rxn,smiles,ea
5049,[C:11]([C:12]([C:13]([H:14])[H:15])([O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])[H:23])([H:20])([H:21])[H:22].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[H:15])[O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])([H:20])([H:21])[H:22].[C:1]([H:5])([H:6])([H:7])[H:23].[O:2][C:3](=[C:4]([H:9])[H:10])[H:8],73.86364374356344
3147,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([C:25]([H:26])[H:27])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([H:7])([H:8])[H:9].[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])([H:11])[C:25]([C:23]([C:22]([C:21]([H:28])([H:29])[H:30])([H:31])[H:32])([C:24]([H:34])([H:35])[H:36])[H:33])([H:26])[H:27],72.23520559706958
2071,[C:11]([C:12]([C:13]([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[H:21])([H:6])[H:7],34.92018228513189
1612,[C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][C:19]([C:17]([O:16][C:15]([H:22])([H:23])[H:24])=[O:18])([C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29],32.47798139695078
214,[C:12]([C:13](=[O:14])[O:15][C:16](=[C:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:16](=[C:17]([H:22])[H:23])[H:21].[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][O:15][C:13]([C:12]([H:18])([H:19])[H:20])=[O:14],83.38479193864623
3570,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22][H:27])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[H:28])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],25.509377277747262
1828,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21][c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:35])([H:11])[H:12])([H:8])([H:9])[H:10],30.404340561304707
940,[C:19]([C:20]([C:21]([H:22])[H:23])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:22])[H:23])([H:8])([H:9])[H:10].[C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13],57.04047801333945
5110,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])[H:39])([H:36])([H:37])[H:38]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([C:5]1=[C:6]([H:20])[C:7]([H:21])[C:8]([H:22])([C:27]([C:26]([C:25]([H:36])([H:37])[H:38])([c:30]2[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]2[H:44])[H:39])([H:28])[H:29])[C:9]([H:23])=[C:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13],21.3799104206264
341,[C:4]([O:5][C:6](=[C:7]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[O:1]([O:2])[H:3]>>[O:1][O:2][C:7]([C:6]([H:3])([O:5][C:4]([H:8])([H:9])[H:10])[H:11])([H:12])[H:13],31.202950405684533
3224,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[H:25])([c:26]1[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]1[H:40])[H:35])([H:32])([H:33])[H:34]>>[C:1]([H:7])([H:8])([H:9])[C:23]([C:22]([C:21]([H:32])([H:33])[H:34])([c:26]1[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]1[H:40])[H:35])([H:24])[H:25].[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11],58.969292190740816
